** sch_path: /foss/designs/chipathon-2026-gf180mcu-hall-effect-sensor/xschem/mcu7t5v0/gf180mcu_fd_sc_mcu7t5v0__dffrnq_1_test.sch
**.subckt gf180mcu_fd_sc_mcu7t5v0__dffrnq_1_test
x1 d vdd clk q vdd vdd vss vss gf180mcu_fd_sc_mcu7t5v0__dffrnq_1
V1 clk vss PULSE(0 1.8 0 1n 1n {clkper/2} {clkper})
V3 vdd vss 3.3
V4 vss 0 0
V2 d vss PULSE(0 1.8 0 1n 1n {sigper/2} {sigper})
* noconn q
**** begin user architecture code

.param sigper=3u
.param clkper=2u
.tran 1n 100u


.include /foss/pdks/gf180mcuD/libs.tech/ngspice/design.ngspice
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice typical
.include /foss/pdks/gf180mcuD/libs.ref/gf180mcu_fd_sc_mcu7t5v0/spice/gf180mcu_fd_sc_mcu7t5v0.spice

**** end user architecture code
**.ends
.end
